US07335658B2
6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-HYDROXY-3-METHYLBUTYL)AMIDE
Following the procedure of Example 15, making variations only as required to use 6-chloropyridazine-3-carboxylic acid (3-hydroxy-3-methylbutyl)amide in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide to react with piperazin-1-yl-(2-trifluoromethylphenyl)methanone, the title compound was obtained as a white powder (46.4% yield). 1H NMR (500 MHz, CDCl3) δ 8.30, 8.05, 7.75, 7.65, 7.57, 7.37, 6.98, 4.06, 3.88, 3.81-3.69, 3.64, 3.40-3.32, 1.80, 1.64, 1.30. MS (ES+) m/z 466 (M+1).

reactant | 6-chloropyridazine-3-carboxylic acid (3-hydroxy-3-methylbutyl)amide | OC(CCNC(=O)C=1N=NC(=CC1)Cl)(C)C | C10H14ClN3O2
reactant | piperazin-1-yl-(2-trifluoromethylphenyl)methanone | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-HYDROXY-3-METHYLBUTYL)AMIDE | OC(CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)(C)C | C22H26F3N5O3
